data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202001583_sup_1.json
{"doi": "10.1002_adsc.202001583_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical bromocyclization of N-aryl acrylamides with KBr to form bromo-substituted indolo[2,1-a]isoquinolines", "mechanism_family": ["radical_anodic", "cation_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of bromide (Br-) from KBr to generate Br radical (Path A) or Br2/bromonium (Path B); cathodic reduction of protons to H2", "key_intermediates": [{"name": "bromine radical (Br•) from anodic oxidation of Br-", "smiles": "[Br]", "role": "reactive"}, {"name": "C-centered radical E from Br• addition to olefin of 1a", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical F after 6-endo-trig cyclization onto aryl ring", "smiles": null, "role": "transient"}, {"name": "arenium cation G after further anodic oxidation (or Br2 oxidation) of F", "smiles": null, "role": "reactive"}, {"name": "bromonium ion H from Br2 addition to olefin (Path B)", "smiles": null, "role": "transient"}, {"name": "Wheland/arenium intermediate I after electrophilic cyclization (Path B)", "smiles": null, "role": "transient"}, {"name": "product 4a (bromomethyl indolo[2,1-a]isoquinoline)", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, Br- is oxidized to Br• (or further to Br2); in Path A, Br• adds to the acrylamide olefin to give C-radical E, which undergoes 6-endo-trig cyclization onto the pendant aryl to give radical F, then a second anodic oxidation (or Br2) yields arenium cation G, which loses H+ to afford 4a. Meanwhile, protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Two pathways are proposed. Favored Path A is a radical cascade (Br• addition / 6-endo-trig / oxidation / deprotonation), analogous to the authors' sulfonyl-radical cyclization to indolo[2,1-a]isoquinolines. Alternative Path B is an electrophilic bromocyclization via a bromonium ion H and arenium I. Mechanism is proposed based on prior literature analogy rather than dedicated probe experiments shown on this page."}
